US06133303
6-[2-(1H-1-Imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone oxime
A solution of 1.0 g (3.9 mmol) of 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone in 10 mL of pyridine was treated with 0.41 g (5.9 mmol) of hydroxylamine×HCl and the solution heated at reflux overnight. The solution was diluted with H2O and the product collected and dried. There was obtained 0.88 g (83% yield) of the product as a white solid, mp 177-179° C. The structure was confirmed by NMR and mass spectroscopy. MS m/z 272 (M+H+).

reactant | 6-[2-(1H-1-imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone | 3.9 mmol, 1.0 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | hydroxylamine | 5.9 mmol, 0.41 g | NO | H3NO
reactant | HCl | Cl | ClH
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | O | H2O
product | 6-[2-(1H-1-Imidazolyl)ethoxy]-1,2,3,4-tetrahydro-1-naphthalenone oxime | 0.88 g, 83% yield | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=NO | C15H17N3O2
